US07626021B2
A mixture of 2,2-dimethyl-propionic acid 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3]dioxolan-2-yl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester (6.5 g, 14 mmol), 2-amino-5-bromo-N,N-dimethyl-benzamide (3.4 g, 14 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloromethane adduct (511 mg, 0.7 mmol) in THF/Acetonitrile/saturated NaHCO3 (25 ml/25 ml/30 ml) was stirred at 100° C. for 4 hours. The mixture was allowed to cool down to room temperature and then extracted with ethyl acetate (3×). The combined organic layers were extracted with brine, dried with Na2SO4, decanted, and concentrated to dryness. Silica chromatography of the crude using a gradient of ethyl acetate and hexane afforded 2,2-dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(2-methoxy-phenyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester (3.7 g, 52% yield).

reactant | 2,2-dimethyl-propionic acid 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3]dioxolan-2-yl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 14 mmol, 6.5 g | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)C2OC(C(O2)(C)C)(C)C)COC(C(C)(C)C)=O | C26H33N3O5
reactant | 2-amino-5-bromo-N,N-dimethyl-benzamide | 14 mmol, 3.4 g | NC1=C(C(=O)N(C)C)C=C(C=C1)Br | C9H11BrN2O
solvent | THF Acetonitrile | 25 ml | C1CCOC1.C(C)#N
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) dichloromethane adduct | 0.7 mmol, 511 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2,2-dimethyl-propionic acid 5-(4-amino-3-dimethylcarbamoyl-phenyl)-3-(2-methoxy-phenyl)-pyrazolo[3,4-b]pyridin-1-ylmethyl ester | 3.7 g, 52% yield | NC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COC(C(C)(C)C)=O)C(N(C)C)=O | C28H31N5O4
